US06043366
8-Cyclodecyl-3-naphthalen-1-ylmethyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m. p. 210° C. and MS: m/e=510.4 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and 1-chloromethylnaphthaline.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | 1-chloromethylnaphthaline | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
product | 8-Cyclodecyl-3-naphthalen-1-ylmethyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CC2=CC=CC3=CC=CC=C23)=O)CC1 | InChI=1S/C34H43N3O.ClH/c38-33-34(22-24-35(25-23-34)30-17-7-4-2-1-3-5-8-18-30)37(31-19-9-6-10-20-31)27-36(33)26-29-16-13-15-28-14-11-12-21-32(28)29;/h6,9-16,19-21,30H,1-5,7-8,17-18,22-27H2;1H
